US04946862
1.7 g of 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)-N-methylbutylamine are dissolved in 15 ml of acetonitrile. 1.5 ml of 35% formalin and 0.59 g of sodium cyanoborohydride are added to the solution, and the mixture is adjusted to pH 6.5 with methanol containing hydrogen chloride and stirred at room temperature for 8 hours. After the reaction, the mixture is acidified with 10% hydrochloric acid and stirred for 30 minutes. The mixture is alkalized with an aqueous 20% potassium carbonate solution and concentrated under reduced pressure. The residue is extracted with ethyl acetate, and the extract is washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:ethanol=30:1) to give 1.4 g of 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)-N,N-dimethylbutylamine as colorless crystals. yield; 79.3% M.p. 62°-63 ° C. (recrystallized from ether-n-hexane)

reactant | 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)-N-methylbutylamine | 1.7 g | C(C)C(CCCC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)NC | C20H29NO3S
reactant | formalin | 1.5 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.59 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)-N,N-dimethylbutylamine | 1.4 g, yield; 79.3% | C(C)C(CCCC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)N(C)C | C21H31NO3S
